US07223788B2
4-Butoxy-3-methoxybenzoic acid
Methyl 4-hydroxy-3-methoxybenzoate was alkylated with bromobutane by method H and hydrolyzed by method P-a. This resulted in the product with the molecular weight of 224.26 (C12H16O4); MS (ESI): 225 (M+H+).

reactant | Methyl 4-hydroxy-3-methoxybenzoate | OC1=C(C=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | bromobutane | BrCCCC | C4H9Br
product | 4-Butoxy-3-methoxybenzoic acid | C(CCC)OC1=C(C=C(C(=O)O)C=C1)OC | C12H16O4
